Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Complications s/p cholecystectomy for choledocholithiasis, 
transaminitis
 
Major Surgical or Invasive Procedure:
No invasive procedures this admission.

 
History of Present Illness:
___ otherwise health who is currently admitted to the medical
service with a concern for right posterior bile duct and right
hepatic artery injury. He underwent a lap converted to open
partial cholecystectomy on ___ at ___
after undergoing a preoperative ERCP for cholangitis. His
operative report notes that his ductal and portal anatomy was
unclear. A bleeding vessel was encountered and ligated however 
it
was unclear if this was the right hepatic artery. He was noted
post-op to have an elevation in his LFTs (TB 1.0, AST 145, AP 
239
ALT 393) with a MRCP which demonstrated a dilated right 
posterior
hepatic duct. He therefore underwent repeat ERCP on ___ with
placement of a ___ plastic stent in to the CBD. There was
reportedly no evidence of bile leak or filling defects. He
presented to the ED yesterday evening with constant worsening 
RUQ
pain, after being told to come here for a PTBD and was admitted
to the medical service. Labs in the ED were notable for AST/ALT
427/213, AP 225, tbili 0.7, lipase 99. He currently has no
complaints and is without significant abdominal pain. He does
have a surgical drain in place which is draining ___ cc of bile
per day.
 
Past Medical History:
- gallstones
- choledocolithiasis
 
Social History:
___
Family History:
- no family history of heart disease, diabetes, liver disease, 
positive family history of gallstone disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals-  97.9 132/80 18 96RA
GENERAL: AOx3, NAD
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact.  No 
conjunctival pallor or injection, sclera anicteric and without 
injection. Moist mucous membranes, good dentition.  Oropharynx 
is clear.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
No JVD.
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields.  No wheezes, rhonchi or rales. 
Resonant to percussion.  
ABDOMEN:  Surgical scar well healing without erythema or pus.  
Biliary drain with serosanguinous fluid.  Normal bowels sounds, 
non distended, mild tenderness in RUQ without rebound or 
guarding. EXTREMITIES: No clubbing, cyanosis, or edema
NEUROLOGIC: CNs grossly intact.  Moving all four extremities. 
A&Ox3.

DISCHARGE PHYSICAL EXAM
========================
GEN: A&Ox3, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
incisions c/d/i, surgical drain in RUQ w/ bilious drainage
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
ADMISSION LABS
===============
___ 04:55PM BLOOD WBC-8.5 RBC-3.97* Hgb-12.7* Hct-37.8* 
MCV-95 MCH-32.0 MCHC-33.6 RDW-12.1 RDWSD-42.4 Plt ___
___ 04:55PM BLOOD Neuts-61.3 ___ Monos-8.5 Eos-2.5 
Baso-1.2* Im ___ AbsNeut-5.19 AbsLymp-2.18 AbsMono-0.72 
AbsEos-0.21 AbsBaso-0.10*
___ 04:55PM BLOOD ___ PTT-30.5 ___
___ 04:55PM BLOOD Glucose-102* UreaN-10 Creat-0.6 Na-140 
K-4.9 Cl-104 HCO3-22 AnGap-19
___ 04:55PM BLOOD ALT-427* AST-213* AlkPhos-225* 
TotBili-0.7
___ 04:55PM BLOOD Albumin-4.2
___ 04:59PM BLOOD Lactate-1.2
___ 07:20AM BLOOD WBC-6.7 RBC-4.10* Hgb-12.9* Hct-39.7* 
MCV-97 MCH-31.5 MCHC-32.5 RDW-12.3 RDWSD-43.4 Plt ___
___ 04:55PM BLOOD WBC-8.5 RBC-3.97* Hgb-12.7* Hct-37.8* 
MCV-95 MCH-32.0 MCHC-33.6 RDW-12.1 RDWSD-42.4 Plt ___
___ 07:20AM BLOOD Glucose-88 UreaN-8 Creat-0.7 Na-140 K-4.6 
Cl-103 HCO3-24 AnGap-18
___ 04:55PM BLOOD Glucose-102* UreaN-10 Creat-0.6 Na-140 
K-4.9 Cl-104 HCO3-22 AnGap-19
___ 07:30AM BLOOD ALT-447* AST-195* AlkPhos-209* 
TotBili-0.7
___ 07:20AM BLOOD ALT-433* AST-182* LD(LDH)-198 
AlkPhos-207* TotBili-0.7
___ 04:55PM BLOOD ALT-427* AST-213* AlkPhos-225* 
TotBili-0.7

IMAGING/STUDIES
============
___ CTA Abdomen
1. Common hepatic arising from the SMA.  Surgical clip abutting 
the right
hepatic artery at the hilum, vessel is mildly irregular, 1 of 
its branches is attenuated, consistent with vessel injury.
2. Status post partial cholecystectomy, with a portion of the 
gall bladder
neck remaining.  2.5 x 2.2 cm simple fluid collection the 
gallbladder fossa. 
Right lateral approach drain terminating in the porta hepatis, 
in close
proximity but not passing through the fluid collection the 
gallbladder fossa.
3. Mild intrahepatic biliary ductal dilatation in the right 
lobe. Stent within the extrahepatic duct, and expected 
pneumobilia indicating stent patency.

 
Brief Hospital Course:
___ who underwent a lap converted to open partial 
cholecystectomy on ___ which based on the op note likely 
resulted in a right hepatic arterial injury. Post op he was 
found to have bilious drainage from his JP as well as abdominal 
pain and elevated LFTs with an MRCP concerning for a right 
posterior hepatic duct injury consistent with a St___ B/C 
injury. He underwent ERCP ___ with plastic stenting of the 
CBB but no reported filling defects on cholangiogram. This 
patient was presented at the multidisciplinary conference. Per 
their recommendations he underwent a CTA which showed CHA 
arising from the SMA, a surgical clip abutting the RHA with an 
attenuated branch possibly indicating a vessel injury, 
pneumobilia consistent with his recent ERCP with CBC plastic 
stenting, and mild intrahepatic biliary dilation in the right 
lobe possibly indicating ductal injury of the right hepatic 
ductal system. He has a drain in place from the original surgery 
which has been putting out small amounts of bilious output. He 
had a persistent elevation of his LFTs which was stable with no 
elevation of the total bilirubin (3 sets with approximately 400 
ALT, 200 AST, 200 AP, and 0.7 Tb on all three sets). He was 
continued on ciprofloxacin and flagyl which was started 
post-operatively per report. This was discontinued on day of 
discharge for an estimated 12 day course. He was afebrile with a 
normal white blood cell count. Given his stability, improving 
pain, and tolerance of a regular diet it was felt safe to 
discharge the patient with the caveat that he return to care for 
worsening pain, fevers, jaundice, or other new concerning 
symptom. He was instructed to follow up with Dr. ___ ___ days 
after his drain output falls to zero or in ___ weeks, whichever 
comes sooner. He is in agreement with the plan. He was given 
instructions on caring for the drain and felt comfortable doing 
so independently at home. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetroNIDAZOLE 250 mg PO TID 
2. Ciprofloxacin HCl 500 mg PO Q12H 
3. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
transaminitis, possible right hepatic artery branch and right 
posterior hepatic duct injuries

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General Discharge Instructions:
 Please resume all regular home medications , unless 
specifically advised not to take a particular medication.  Also, 
please take any new medications as prescribed.
 Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
 Avoid driving or operating heavy machinery while taking pain 
medications.
 Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
 Incision Care:
 *Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
 *Avoid swimming and baths until your follow-up appointment.
 *You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
 *If you have staples, they will be removed at your follow-up 
appointment.
 *If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
 JP Drain Care:
 *Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
 *Maintain suction of the bulb.
 *Note color, consistency, and amount of fluid in the drain.  
Call the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
 *Be sure to empty the drain frequently.  Record the output, if 
instructed to do so.
 *You may shower; wash the area gently with warm, soapy water.
 *Keep the insertion site clean and dry otherwise.
 *Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
 *Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
 

 JP Drain Care: To bulb suction. Cleanse insertion site with 
mild soap and water or sterile saline, pat dry, and place a 
drain sponge daily and PRN. Monitor and record quality and 
quantity of output. Empty bulb frequently. Ensure that the JP is 
secured to the patient. Monitor for s/s infection or 
dislocation.
 .
 General Drain Care:
 *Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
 *If the drain is connected to a collection container, please 
note color, consistency, and amount of fluid in the drain.  Call 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character. Be sure to 
empty the drain frequently.  Record the output, if instructed to 
do so.
 *Wash the area gently with warm, soapy water or ___ strength 
hydrogen peroxide followed by saline rinse, pat dry, and place a 
drain sponge. Change daily and as needed.
 *Keep the insertion site clean and dry otherwise.
 *Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
 *Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
 
 
Followup Instructions:
___